US07585880B2
methyl 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoate
To a solution of [4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]phenyl]methanol (409 mg, 0.98 mmol), methyl 3-(4-hydroxyphenyl)propanoate (195 mg, 1.18 mmol) and tributylphosphine (297 mg, 1.47 mmol) in tetrahydrofuran (20 mL) was added 1,1′-(azodicarbonyl)dipiperidine (371 mg, 1.47 mmol), and the mixture was stirred at room temperature for 16 hr. The insoluble materials were filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography to give the title compound (273 mg, yield 50%) as a colorless oil.

reactant | [4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]phenyl]methanol | 0.98 mmol, 409 mg | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(C=C1)CO | C25H24N2OS
reactant | methyl 3-(4-hydroxyphenyl)propanoate | 1.18 mmol, 195 mg | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | tributylphosphine | 1.47 mmol, 297 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.47 mmol, 371 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoate | 273 mg, yield 50% | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C35H34N2O3S
